US08227623B2
C: trans-N-methyl-2-(2-iodophenyl)-3-(2-hydroxy-5-chlorophenyl)-pyrrolidine
A mixture of trans-2-iodo-5′-chloro-2′-hydroxystilbene (56.1 grams, 157.6 mmol) and trimethylamine N-oxide dihydrate (52.55 g, 472.8 mmol) was dissolved in THF (570 ml) at room temperature while stirring. Not all of the trimethylamine N-oxide dihydrate dissolved. The mixture was cooled with an ice bath to 0° C. Then, a cooled LDA solution of ca. 4° C. (577.5 ml, 1.8 M in heptane/THF/ethylbenzene; 1.04 moles) was added drop wise with a dropping funnel over 25 minutes. The internal temperature rose to ca. 20-26° C. After the addition was complete the temperature of the resulting orange/yellow solution dropped to ca. 8° C. within 10 minutes. A sample was taken, quenched with some water and analyzed by LC to show >90% cycloadduct The ice-bath was removed and the reaction mixture was stirred for an additional 4 hours while warming to room temperature. Water (140 ml) was added and the mixture was stirred overnight at room temperature. Then 2 N HCl (200 ml) was added followed by ethyl acetate (500 ml). The organic layer was separated. The aqueous layer, which was still slightly basic (pH indicator paper), was again extracted with ethyl acetate (100 ml). The combined organic extracts were dried with Na2SO4. Evaporation under vacuum gave an oil. Diethyl ether (100 ml) was added to give a solution. Upon addition of n-pentane (300 ml) to this ether solution while stirring gave a yellow precipitate. Filtration over a glass filter and washing with n-pentane (2×25 ml) gave after drying under vacuum the pure cycloadduct (46.5 g, 112.6 mmol; LC>95% pure) as a yellow solid in 72% yield. M.p.: 123.1° C. (onset), 126.9° C. (peak). The filtrates were combined and evaporated under vacuum to give 23 grams oil, which contained a lot of product according to NMR analysis. Purification by chromatography on silica gel, eluting with ethyl acetate gave a second crop (17 g; 41.1 mmol; 26%). The overall yield was ca. 98%.

reactant | trans-2-iodo-5′-chloro-2′-hydroxystilbene | 157.6 mmol, 56.1 grams | IC1=C(C=CC=C1)\C=C\C1=C(C=CC(=C1)Cl)O | C14H10ClIO
reactant | trimethylamine N-oxide dihydrate | 472.8 mmol, 52.55 g | O.O.C[N+](C)(C)[O-]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
solvent | THF | 570 ml | C1CCOC1 | C4H8O
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | ether | CCOCC | C4H10O
solvent | n-pentane | 300 ml | CCCCC | C5H12
solvent | Diethyl ether | 100 ml | C(C)OCC | C4H10O
product | trans-N-methyl-2-(2-iodophenyl)-3-(2-hydroxy-5-chlorophenyl)-pyrrolidine | 23 grams, 72% yield | CN1[C@H]([C@@H](CC1)C1=C(C=CC(=C1)Cl)O)C1=C(C=CC=C1)I | C17H17ClINO
